US07259266B2
Step 1. Preparation of 3-chloro-2-hydroxy-5-methoxybenzaldehyde
To a solution of 2-chloro-4-methoxyphenol (25.0 g, 158 mmole) in anhydrous acetonitrile (625 mL) under a dry N2 atmosphere was added MgCl2 (22.5 g, 236 mmole) and TEA (82.3 mL, 591 mmole). The mixture warmed slightly as the MgCl2 was added. Paraformaldehyde (32.0 g, 1.06 mmiole) was then added, the mixture was refluxed for 4.5 h and allowed to stand at room temperature overnight. Additional paraformaldehyde (14.2 g, 474 mmole) was added and reflux was resumed. After 4 h, the mixture was cooled, additional paraformaldehyde (32.0 g, 1.06 mmole) was added and reflux was resumed for another 2.25 h. The mixture was then cooled to room temperature, acidified with 1 N HCl and extracted with ethyl ether (4×500 mL). The combined extracts were washed with brine (250 mL), dried over MgSO4, filtered and concentrated in vacuo to give 30.3 g of a yellow crystalline solid. Recrystallization from isopropanol-H2O gave 11.9 g (41% yield) of the product as a yellow crystalline solid: 1H NMR (dmso-d6/300MHz) 10.47 (brs, 1H, 10.11 (s, 1H), 7.36 (d, 1H, J=3.0 Hz), 7.19 (d, 1H, J=3.0 Hz), 3.73 (s, 3H).

reactant | 2-chloro-4-methoxyphenol | 158 mmole, 25.0 g | ClC1=C(C=CC(=C1)OC)O | C7H7ClO2
reactant | MgCl2 | 236 mmole, 22.5 g | [Mg+2].[Cl-].[Cl-]
reactant | Paraformaldehyde | 32.0 g | C=O | CH2O
reactant | paraformaldehyde | 474 mmole, 14.2 g | C=O | CH2O
reactant | paraformaldehyde | 1.06 mmole, 32.0 g | C=O | CH2O
reactant | HCl | 1 N | Cl | ClH
solvent | acetonitrile | 625 mL | C(C)#N | C2H3N
product | 3-chloro-2-hydroxy-5-methoxybenzaldehyde | 30.3 g | ClC=1C(=C(C=O)C=C(C1)OC)O | C8H7ClO3
